### PR TITLE
Prove energy dissipation rate for damped harmonic oscillator

### PR DESCRIPTION
**Pull request by JayYarlott**
Builds on #891 by adding proofs of the energy dissipation rate for a damped harmonic oscillator.

### CODE REVIEW

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 1]
```diff
@@ -205,6 +200,58 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+              - S.γ * Time.deriv x t := by linarith
+  -- Work with fderivs
+  rw [Time.deriv_eq]
+
+  -- Nice to have for later
+  have hdx : Differentiable ℝ x := hx.differentiable (by norm_num)
+  have hddx : Differentiable ℝ (∂ₜ x) := deriv_differentiable_of_contDiff x hx
+
+  -- Break equation apart
+  simp only [energy, kineticEnergy, potentialEnergy, Pi.add_def]
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: If you remove `Pi.add_def` from the `simp only` do you need it in the `rw` below?

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 2]
```diff
@@ -205,6 +200,58 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+  rw [← Pi.add_def]
+
+  have hke : DifferentiableAt ℝ (fun i => (1/2 : ℝ) * S.m * ∂ₜ x i ^ 2) t :=
+    ((hddx t).pow 2).const_mul _
+  have hpe : DifferentiableAt ℝ (fun i => 1 / 2 * S.k * x i ^ 2) t :=
+    ((hdx t).pow 2).const_mul _
+  -- Separate energy derivative into potential and kinetic
+  rw [fderiv_add hke hpe]
+  -- Perform chain derivatives and move constants
+  rw [fderiv_const_mul (a := fun i => ∂ₜ x i ^ 2) ((hddx t).pow 2)]
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Can you combine these `rw`?

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 3]
```diff
@@ -205,6 +200,58 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+  linear_combination (Time.deriv x t) * heom'
+
+theorem energy_not_conserved (x: Time → ℝ) (h1 : S.EquationOfMotion x)
+    (hx : ContDiff ℝ ∞ x)
+    (hdx : Time.deriv x t ≠ 0)
+    (hγ : S.γ > 0) :
+    Time.deriv (energy S x) t < 0 := by
+  have he : Time.deriv (energy S x) t = - S.γ * (Time.deriv x t)^2 :=
+    energy_dissipation_rate S x h1 hx
+  rw [he]
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: I think you should be able to replace this `have he ...` followed by `rw` with just 
```
rw [energy_dissipation_rate]
```

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 4]
```diff
@@ -205,6 +200,58 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+
+  have hp : 0 < ∂ₜ x t ^ 2 := by
+    rw [sq_pos_iff]
+    exact hdx
+
+  rw [neg_mul S.γ (∂ₜ x t ^ 2)]
+  exact neg_neg_of_pos (mul_pos hγ hp)
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: This might be cleaner as 
```Lean4
rw [neg_mul S.γ (∂ₜ x t ^ 2)]
refine neg_neg_of_pos (mul_pos hγ ?_)
rw [sq_pos_iff]
exact hdx
```

or even, if it works,

```Lean4
rw [neg_mul S.γ (∂ₜ x t ^ 2)]
refine neg_neg_of_pos (mul_pos hγ (sq_pos_iff.mp hdx))
```

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 5]
```diff
@@ -205,6 +200,58 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+  -- Break equation apart
+  simp only [energy, kineticEnergy, potentialEnergy, Pi.add_def]
+  rw [← Pi.add_def]
+
+  have hke : DifferentiableAt ℝ (fun i => (1/2 : ℝ) * S.m * ∂ₜ x i ^ 2) t :=
+    ((hddx t).pow 2).const_mul _
+  have hpe : DifferentiableAt ℝ (fun i => 1 / 2 * S.k * x i ^ 2) t :=
+    ((hdx t).pow 2).const_mul _
+  -- Separate energy derivative into potential and kinetic
+  rw [fderiv_add hke hpe]
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: You could probably put the `have hke` and `have hpe` directly in the `rw`, so something like 

```Lean4 
rw [fderiv_add (((hddx t).pow 2).const_mul _) (((hddx t).pow 2).const_mul _)]
```

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 6]
```diff
@@ -205,6 +200,58 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
 noncomputable def energyDissipationRate (x : Time → ℝ) : Time → ℝ :=
   fun t => - S.γ * (Time.deriv x t)^2
 
+/-- Derives the energy dissipation rate from the equation of motion -/
+theorem energy_dissipation_rate (x: Time → ℝ) (h1 : S.EquationOfMotion x)
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Could we use `lemma` here instead of `theorem`.

**Review by jstoobysmith — COMMENTED** [review]
I've added some review comments - I was a bit pedantic, but hopefully they are useful

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 6 above)
Comment (jstoobysmith) [reply PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: (and also in the other theorem)

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 1 above)
Comment (JayYarlott) [reply PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: The `Pi.add_def` was being used chronologically between `energy` and the `kineticEnergy` because `simp only` was having a hard time unfolding `kineticEnergy` and `potentialEnergy` without it. I cleaned it up a bit in [956245f](https://github.com/leanprover-community/physlib/pull/967/commits/956245f6482ae202308d3d27111b354ec77b0e83), just using `unfold` and `rw [energy]`

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 6 above)
Comment (JayYarlott) [reply PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Absolutely, I'd meant to do that before issuing the pull request.

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 7]
```diff
@@ -205,6 +200,42 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+lemma energy_dissipation_rate (x: Time → ℝ) (h1 : S.EquationOfMotion x)
+    (hx : ContDiff ℝ ∞ x) :
+    Time.deriv (energy S x) t = - S.γ * (Time.deriv x t)^2 := by
+
+  -- Rearrange Equation of Motion
+  have heom' : S.m * Time.deriv (Time.deriv x) t + S.k * x t =
+              - S.γ * Time.deriv x t := by linarith [h1 t]
+
+  -- Break equation apart
+  rw [energy]
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: `rw [energy, kineticEnergy, potentialEnergy]`? 
If this doesn't work then we should likely have theorems `kineticEnergy_eq` and `potentialEnergy_eq` which experts the definitional equality of `kineticEnergy` and `potentialEnergy`. Using `unfold` is generally not the best idea, although I acknowledge that it is used throughout this project.

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 8]
```diff
@@ -205,6 +200,42 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+
+  rw [Time.deriv_eq]
+
+  have hdx : Differentiable ℝ x := hx.differentiable (by norm_num)
+  have hddx : Differentiable ℝ (∂ₜ x) := deriv_differentiable_of_contDiff x hx
+  have hKE := ((hddx t).hasFDerivAt.pow 2).const_mul (1/2 * S.m)
+  have hPE := ((hdx t).hasFDerivAt.pow 2).const_mul (1/2 * S.k)
+
+  rw [(hKE.add hPE).fderiv]
+
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Could we remove these extra new lines in the proof?

**Review by jstoobysmith — COMMENTED** [review]
Many thanks, two more quick comments.

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 9]
```diff
@@ -205,6 +207,40 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+  have hPE := ((hdx t).hasFDerivAt.pow 2).const_mul (1/2 * S.k)
+  rw [(hKE.add hPE).fderiv]
+  norm_num
+  rw [← Time.deriv, ← Time.deriv]
+  linear_combination (Time.deriv x t) * heom'
+
+lemma energy_not_conserved (x: Time → ℝ) (h1 : S.EquationOfMotion x)
+    (hx : ContDiff ℝ ∞ x)
+    (hdx : Time.deriv x t ≠ 0)
+    (hγ : S.γ > 0) :
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Please could you replace this with  `0 < S.γ`.

```suggestion
    (hγ : 0 < S.γ) :
```

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 10]
```diff
@@ -195,6 +190,13 @@ noncomputable def potentialEnergy (x : Time → ℝ) : Time → ℝ :=
 noncomputable def energy (x : Time → ℝ) : Time → ℝ :=
   S.kineticEnergy x + S.potentialEnergy x
 
+/-- Equalties for energy eqns -/
+lemma kineticEnergy_eq (x: Time → ℝ) :
+  kineticEnergy S x = fun t => (1 / 2 : ℝ) * S.m * (Time.deriv x t)^2 := by rfl
+
+lemma potentialEnergy_eq (x: Time → ℝ) :
+  potentialEnergy S x = fun t => (1 / 2 : ℝ) * S.k * (x t)^2 := by rfl
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: To pass the linters you are going to need to indent this line and 195 by two more spaces.
```suggestion
    potentialEnergy S x = fun t => (1 / 2 : ℝ) * S.k * (x t)^2 := by rfl
```

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 11]
```diff
@@ -195,6 +190,13 @@ noncomputable def potentialEnergy (x : Time → ℝ) : Time → ℝ :=
 noncomputable def energy (x : Time → ℝ) : Time → ℝ :=
   S.kineticEnergy x + S.potentialEnergy x
 
+/-- Equalties for energy eqns -/
+lemma kineticEnergy_eq (x: Time → ℝ) :
+  kineticEnergy S x = fun t => (1 / 2 : ℝ) * S.m * (Time.deriv x t)^2 := by rfl
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
    kineticEnergy S x = fun t => (1 / 2 : ℝ) * S.m * (Time.deriv x t)^2 := by rfl
```

File: PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 12]
```diff
@@ -205,6 +207,40 @@ so the energy is non-increasing and not conserved when `S.γ > 0`. -/
...
+  norm_num
+  rw [← Time.deriv, ← Time.deriv]
+  linear_combination (Time.deriv x t) * heom'
+
+lemma energy_not_conserved (x: Time → ℝ) (h1 : S.EquationOfMotion x)
+    (hx : ContDiff ℝ ∞ x)
+    (hdx : Time.deriv x t ≠ 0)
+    (hγ : S.γ > 0) :
+    Time.deriv (energy S x) t < 0 := by
+
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
```

**Review by jstoobysmith — COMMENTED** [review]
Added a couple more suggested changes, you should just be able to apply these directly. Some are necessary for the linters. This should hopefully be the last round.

**Review by jstoobysmith — APPROVED** [review]
Many thanks for this, I've approved and I will merge now.
